Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizures, abnormal head CT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ male with history of hypertension
who presented initially to ___ with episodes of
unresponsiveness concerning for seizures.

Per the patient, he woke up this morning in his usual state of
health. he reports that last night had a lot of difficulty
falling asleep. Otherwise felt normal today. Before his son got
home, he cooked dinner for the family. ___ down to eat at around
7PM, and acutely started to feel hot and became sweaty. He felt
nauseous, but no other visual or olfactory auras. He remembers
putting meal on the coffee table in front him, then laid down on
the couch. Son asked why he was sweating so much and why he
hadn't eaten dinner, then next thing he remembers is his son
standing over him and shouting "dad, dad." He then remembers
paramedics and police officers standing over him and convincing
him to go to the hospital. Per OSH records, he was very agitated
and combative at this time. He was given full dose aspirin en
route to the hospital. The patient remembers the ambulance ride
and being wheeled into the ED. He can also recall several family
members showing up to the ED. Remembers being in the CT scanner,
and then transported back to the ED bay. He reports feeling
clammy but not as sweaty. Memory is a bit fuzzy after the scan
but he can remember being transported to ___. OSH records
indicate he had 2 more events characterized by unresponsiveness
and extensor posturing. Family was called for ancillary and
eyewitness information but was not available over the phone. He
was loaded with keppra (unknown dose) prior to transfer.
 
Of note, he has a history of migraines diagnosed in his ___. Has
not had any for about a year, but when he did have them they 
were
holocranial. These would last several hours, and ___ advils 
which
would help. Used to have headaches that he would sometimes wake
up with, but these could also occur at other times of the day.
Having dentures fitted and having his hypertension treated 
helped
and he has been migraine-free for about a year.  

Since cataract surgery, one eye is more out of focus than the
other, but no discrete vision issues including double vision.
Wearing leg brace for left knee for the past few days. He does
have pain in middle finger. Denies diffuse muscle pain. Denies
fevers/chills or other infectious symptoms. He is a ___ ___
and ___ been exposed to ticks many times, and was treated once 
by
his PCP with antibiotics.

He also reports being under a lot of stress. He is a single
father who is struggling to pay his bills. His son and daughter
are also causing a great degree of stress. He currently denies
SI, and feels that his mood is ok. Currently endorses 
holocranial
headache reminiscent of previous migraine headaches.

EPILEPSY RISK FACTORS:
Abnormal pregnancy:  HTN, GDM
Abnormal birth / neonatal:  N
Abnormal development:  N
Febrile seizures, simple:  N
Febrile seizures, complex:  N
CNS infection:  N
Mental retardation:  N
Cerebral palsy:  N
Head injury (moderate/severe): at age ___, was thrown into a
chandelier by accident, also played football as a high school
student and had concussions
CNS neoplasm:  N
CNS malformation:  N
Neurosurgical procedure:  N 
Stroke:  N
Alcohol abuse:  N
Drug abuse:  N
Consanguinity:  N
Family history seizures/epilepsy:  N

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. 

 
Past Medical History:
Hypertension,
DEPRESSION
Bilateral cataract surgeries in ___
 
___ History:
___
Family History:
No history of seizures, strokes, headaches in family. Mother had 
pancreatic cancer (deceased ___, father had colon cancer 
(deceased ___, sister with lung cancer (deceased, diagnosed 
___.
 
Physical Exam:
=================================
ADMISSION PHYSICAL EXAMINATION 
=================================
Physical Exam:
Vitals: T 96.7  HR 64  BP 133/74  RR 16  100%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: multiple excoriated lesions involving arms chest. No 
single
targetoid rash.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI with 5 beats of
end gaze nystagmus on far right gaze. Normal saccades. VFF to
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was equivocal bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

======================================
DISCHARGE PHYSICAL EXAMINATION: 
======================================
Vitals: T 98.4, BP 125/67, HR 69, RR 16, SaO2 98% on RA

General exam unchanged. 
Neurologic exam unchanged. 
 
Pertinent Results:
___ 05:00AM BLOOD WBC-8.1 RBC-4.81 Hgb-14.4 Hct-43.7 MCV-91 
MCH-29.9 MCHC-33.0 RDW-13.4 RDWSD-45.1 Plt ___
___ 08:30AM BLOOD WBC-6.6 RBC-4.85 Hgb-14.7 Hct-43.2 MCV-89 
MCH-30.3 MCHC-34.0 RDW-13.4 RDWSD-43.8 Plt ___
___ 05:00AM BLOOD Glucose-126* UreaN-12 Creat-0.8 Na-135 
K-4.3 Cl-99 HCO3-22 AnGap-18
___ 05:00AM BLOOD Glucose-126* UreaN-12 Creat-0.8 Na-135 
K-4.3 Cl-99 HCO3-22 AnGap-18
___ 01:00AM BLOOD CK-MB-6 cTropnT-<0.01
___ 08:30AM BLOOD %HbA1c-5.6 eAG-114
___ 08:30AM BLOOD Triglyc-85 HDL-49 CHOL/HD-3.7 LDLcalc-117
___ 08:30AM BLOOD TSH-1.6
___ 05:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 05:00AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:00AM URINE RBC-6* WBC-1 Bacteri-FEW Yeast-NONE 
Epi-<1

Imaging: 
Non-Contrast CT of Head ___ (OSH):
Per outside report, subtle area of edema noted in the right
frontal lobe subtle hyperdensity along subepidermal surface of
the frontal horn underlying lesion and hemorrhage can not be
excluded further workup with MRI with contrast recommended no
midline shift or herniation.

CXR ___: Mild interstitial abnormality is noted, which is 
most commonly seen in smokers. 

CTA head/neck ___: 1. Subtle hypodensity in the right 
frontal lobe with a medial linear 
hyperdense focus is seen (3;18).  This is unlikely to be a focus 
of 
hemorrhage.  Differential considerations include an area of 
prior ischemia, 
however an underlying lesion cannot be excluded.  An MRI is 
recommended for 
further evaluation. 
2. Unremarkable CTA of the head and neck. 
3. Incidental 6 mm right upper lobe nodule as well as mild 
emphysema.  Please see below for ___ guidelines. 
  
RECOMMENDATION(S):  1.  MRI of the brain. 
2.  The ___ pulmonary nodule recommendations 
are intended as guidelines for follow-up and management of newly 
incidentally  detected pulmonary nodules smaller than 8 mm, in 
patients ___ years of age or older. Low risk patients have 
minimal or absent history of smoking or other known risk factors 
for primary lung neoplasm. High risk patients have a history of 
smoking or other known risk factors for primary lung neoplasm. 
In the case of nodule size >4 - 6 mm: For low risk patients, 
follow-up at 12 months and if no change, no further imaging 
needed. For high risk patients, initial follow-up CT at ___ 
months and then at ___ months if no change. 

MRI brain, MRA ___: 1. Study is mildly degraded by motion. 
2. No evidence of acute infarct. 
3. Right frontal developmental venous anomaly with adjacent 
probable cavernous malformation as described. 
4.  Within limits of study, no definite intracranial mass 
identified. 
5. Right frontal nonenhancing white matter lesion corresponding 
to recently noted right frontal hypodense lesion.  Findings are 
suggestive 
microangiopathic changes or chronic infarct with differential 
considerations include sequela of prior trauma or infection, 
history of migraine headaches, inflammatory or demyelinating 
process, and microangiopathic changes. 
6. Paranasal sinus disease as described. 
7. No evidence of aneurysm greater than 3 mm,  dissection or  
significant 
luminal narrowing of circle of ___ or cervical carotid or 
vertebral 
arteries. 

 
Brief Hospital Course:
Mr. ___ was admitted to Neurology for workup of spells of loss 
of consciousness in the setting of a hypodensity on CT. 
Therefore, there was concern that these may represent seizures, 
though clinically his prodrome was far more consistent with a 
vasovagal syncope than seizure. 
He was monitored strictly on telemetry, and he was found to have 
several prolonged pauses on telemetry, the longest being a 20 
second pause. These were not associated with clinical seizure 
semiology, but were associated with loss of consciousness. Given 
the cardiac pauses, electrophysiology was consulted, who 
determined that the pauses were vasovagal in etiology and 
therefore did not require immediate pacemaker placement. He was 
subsequently treated with education regarding maintaining 
hydration and wearing compression stockings. 
Regarding his R frontal lesion, further evaluation was performed 
with CTA and MRI/MRA, which showed T2/FLAIR hyperintensity in 
the region surrounding the developmental venous abnormality, 
favored to represent expected edema surrounding the 
developmental venous abnormality. Less likely, microvascular 
ischemic disease surrounding the developmental venous 
abnormality, as it is theoretically possible that altered 
hemodynamics in this area may increase the risk for 
microvascular disease in this region.  Additionally, he was 
noted to have multiple other small, scattered areas of 
microvascular disease, favored to be secondary to his long 
history of smoking and hypertension, as well as hyperlipidemia. 
Given this, he was started on aspirin and atorvastatin. We will 
consider repeat MRI in 6 months to rule out any evolution of 
this lesion. 

===================================
Transitional Issues: 
PCP: 
 [ ] 6 mm Right upper lobe lung nodule requires follow up: Per 
radiology recommendations, initial follow-up CT at ___ months 
and then at ___ months if no change. 

Cardiology: 
 [ ] Query - would beta blockade be considered to reduce 
vasovagal syncope if persistent? 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.25 mg PO QHS:PRN sleep 
2. amLODIPine 5 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*6 
3.  amLODIPine 5 mg PO DAILY  
4.  Citalopram 20 mg PO DAILY  
5.  ClonazePAM 0.25 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vasovagal syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after losing consciousness multiple times. You 
were evaluated by cardiology who attributed your symptoms to 
vasovagal syncope (an abnormal reflex which causes your heart to 
slow down) rather than any intrinsic heart disease. They 
recommended that you avoid dehydration and start to wear high 
strength (___) knee high support hose.
As part of our search for the cause of the loss of 
consciousness, we saw a spot on your brain. We cannot say for 
sure what the spot is, but it isn't new and isn't related to 
your symptoms. The most likely cause is microvascular disease. 
We are treating you for this with a baby aspirin daily and a 
cholesterol-lowering medicine. To make sure that this spot isn't 
changing over time, we would like you to get an MRI in 6 months. 

- Between 30 days before and 1 day before the MRI, please come 
to ___ to have blood drawn. 
- We will go over the results of this MRI when we see you in 
follow-up in Neurology clinic. 
- Please call the Neurology clinic at ___ and give them 
your phone number so that they are able to call when the time 
nears to remind you of the appointment. 

 
Followup Instructions:
___